US05846989
a) 2-[2-(4-Chlorophenyl)ethoxy]acetic acid
2-(4-Chlorophenyl)ethanol (10 g) was stirred in 50% aqueous sodium hydroxide (70 ml), tetrabutylammoniumbromide (1.4 g) was added and the mixture stirred for 1 hour. t-Butylbromoacetate (28.6 ml) in toluene (140 ml) was added and stirring continued for 18 hours. Water (50 ml) was added and after 2 hours the mixture was cooled in ice and acidified to pH 1 with concentrated hydrochloric acid. The organic layer was separated and the aqueous extracted with ethyl acetate. The combined organic extracts were washed with brine and dried (MgSO4). The solvent was removed in vacuo to give a pale yellow oil This was dissolved in dichoromethane (100 ml) and trifluoroacetic acid (100 ml) added, the mixture was heated at reflux for 1 hour. The volatiles were removed in vacuo and the residue taken up in sodium hydroxide and washed with ethyl acetate. The aqueous layer was then acidified with concentrated hydrochloric acid and extracted with ethyl acetate, this ethyl acetate was washed with water, dried (MgSO4) and the volatiles removed in vacuo to provide the subtitle compound as a buff solid (16.4 g) which was used without further purification.

reactant | 2-(4-Chlorophenyl)ethanol | 10 g | ClC1=CC=C(C=C1)CCO | C8H9ClO
reactant | t-Butylbromoacetate | 28.6 ml | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | hydrochloric acid | Cl | ClH
reactant | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | sodium hydroxide | 70 ml | [OH-].[Na+]
catalyst | tetrabutylammoniumbromide | 1.4 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 140 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichoromethane | 100 ml | ClCCl | CH2Cl2
solvent | Water | 50 ml | O | H2O
product | 2-[2-(4-Chlorophenyl)ethoxy]acetic acid | ClC1=CC=C(C=C1)CCOCC(=O)O | C10H11ClO3
